Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p fall
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ PMH gout, hypothyroidism, BPH, bladder cancer s/p resection 
___ in remission, depression/anxiety, with left hip fracture 
status post repair, who presents after a trip and fall to 
outside hospital was found to have a C1 fracture, transferred to 
___ for further evaluation and management. 

Patient reports he was walking across his porch and tripped and 
fell forward slipping down the stairs. Denies LOC, 
lightheadedness, insists it was just a trip. Reports a large 
bruise on his right forehead. Reports 40-50lb weight loss over 
the past ___ months, intentional. Denies fevers, night sweats; 
denies chest pain, SOB, abdominal pain, constipation, 
black/bloody stools. Has had urinary retention starting in the 
past year, reports US done of prostate which was unconcerning. 
Follows regularly for bladder ca with hematology, per report no 
remission. 

At outside hospital, CT head was unremarkable. CT C-spine 
concerning for C1 fracture and c-collar remained in place. 

In the ED, initial vitals were: 98.0  60  166/115  16  98% RA  
Exam notable for: right frontal hematoma; neuro intact; mild 
right knee swelling with mild tenderness

Labs notable for:
-Nl chem, Cr 1.1
-Mild anemia 12.3, otherwise nl CBC
-INR 1.2   
Imaging was notable for: 
-MRI neck: A 1.3 x 1.2 x 1.2 cm (AP by TV by SI) enhancing 
lesion that is mildly T2 hyperintense is seen in the right C1 
arch. Further evaluation with direct tissue sampling is 
recommended. 
-MRI C-spine: No cord signal abnormality or evidence of acute 
fracture. In comparing to outside reference CT C-spine from ___, there appears to be a soft tissue mass in the right 
arch of C1, which may be associated with cortical irregularity 
along the periphery of the mass. 
-XR R knee: Prepatellar soft tissue swelling, no fracture or 
dislocation.
-XR L hip: No acute fracture, dislocation or hardware failure. 
Right hip OA is severe.
-OSH CT head: No acute process

Consults: 
- Neurosurg: MRI reviewed. 1x1x1 C1 fx. Discussed with ___ and 
they can likely bx today. Keep NPO and hold ASA. If admission 
needed would recommend medicine admit given no Neurosurgical 
intervention. ___ discontinue cervical collar ___ Neurosurg). 
- ___: plan for admit for ___ guided biopsy of neck mass

- Patient was given:
___ 04:22 PO/NG Calcium Carbonate 500 mg ___  
___ 05:00 IV LORazepam .5 mg ___  
___ 06:22 PO/NG Levothyroxine Sodium 175 mcg 
___  
___ 07:30 PO Finasteride 5 mg ___ 
  
Upon arrival to the floor, patient reports right knee hurts a 
bit as well as his left hip. Reports is otherwise healthy and 
doesn't take many meds.
  
ROS: Positive per HPI. Remaining 10 point ROS reviewed and 
negative  

 
Past Medical History:
BPH
Anxiety/depression
Gout
Bladder cancer s/p resection in ___, in remission
hypothyroidism
 
Social History:
___
Family History:
No history of cancer or other chronic disease that he is aware 
of. 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vital Signs: T ___, HR 62, BP 181/83, RR 18, O2Sat 100% room air
General: Well nourished, well dressed elderly male. Comfortable,
no acute distress.
Head, Eyes, Ears, Nose, Throat: Normocephalic. Ecchymosis and
swelling on the right forehead just above the right eyebrow.
Pupils equal, round, and reactive to light.
Extremities: Warm and well perfused.
Neurologic:
Mental status: Awake and alert, cooperative with exam, normal 
affect.
Orientation: Oriented to person, place, and date.
Motor:
        Trapezius   Deltoid   Biceps   Triceps   Grip
Right   5           5         5        5         5
Left    5           5         5        5         5

        IP   Quadriceps   Hamstring   AT   ___   Gastrocnemius
Right   5    5            5           5    5     5
Left    5    5            5           5    5     5

No tenderness to palpation in the cervical spine.
Sensation: Intact to light touch.

DISCHARGE PHYSICAL EXAM:  
VITAL SIGNS: T98 BP 165 / 84 HR 62  RR20 97 Ra 
GENERAL: Well appearing, NAD, slightly anxious  
HEENT: Large bruise over R forehead, EOMI, PEERLA 
NECK: palpable nontender mass on posterior neck 
CARDIAC: RRR, nl S1 S2, no murmur 
LUNGS: CTAB, nl excursion 
ABDOMEN: Soft, obese, NT, +BS 
EXTREMITIES: WWP, no c/c/e 
NEUROLOGIC: CN ___ intact, strength and sensation intact 
throughout
 
Pertinent Results:
LABS
------
___ 10:30AM BLOOD WBC-6.0 RBC-3.93* Hgb-12.3* Hct-37.9* 
MCV-96 MCH-31.3 MCHC-32.5 RDW-13.7 RDWSD-48.8* Plt ___
___ 10:30AM BLOOD Glucose-91 UreaN-25* Creat-1.1 Na-139 
K-4.5 Cl-104 HCO3-22 AnGap-13
___ 10:30AM BLOOD ALT-15 AST-22 LD(LDH)-170 AlkPhos-90 
TotBili-0.5
___ 10:30AM BLOOD Albumin-3.7 Calcium-8.9 Phos-3.7 Mg-1.9

___ MRI NECK SOFT TISSUE
1. Moderately degraded exam from motion artifact. 
2. Enhancing indeterminate lesion within the C1 right lateral 
mass.  Adjacent pathologic fracture is better seen on recent CT. 

3. Right vocal cord paralysis. 
4. No significant spinal canal narrowing. 
5. Suggestion of polyp posterior left nasal cavity. 

___ MRI CERVICAL SPINE
Indeterminate lesion right lateral mass of C1 with pathologic 
fracture better appreciated on CT cervical spine.  Exclude 
aggressive lesion, including metastasis. 
Degenerative changes cervical spine. 
Moderate central canal narrowing C3-C4 level. 
Multilevel significant foraminal narrowing, as above. 

___ HIP XRAY
No acute fracture, dislocation or hardware failure.  Right hip 
OA is severe.

___ KNEE XRAY
Prepatellar soft tissue swelling, no fracture or dislocation.

 
Brief Hospital Course:
___ PMH gout, hypothyroidism, BPH, bladder cancer s/p resection 
___ in remission, depression/anxiety, with left hip fracture 
status post repair, who presents after a trip and fall to 
outside hospital was found to have a C1 fracture, transferred to 
___ for further evaluation and management. 

#Neck mass
Patient with newly discovered neck mass at C1, with report of 
intentional weight loss but no other B symptoms reported. MRI 
C-spine showed no cord signal abnormality or evidence of acute 
fracture. Concerning for possible malignancy. Seen by 
neurosurgery in ED, no indication for surgical intervention or 
c-spine collar at present. The patient was admitted for ___ 
biopsy of the neck mass to rule out cancer; however, ___ decided 
that the biopsy should happen on ___ instead on an 
outpatient basis, and that the patient did not need to be in the 
hospital until then. The plan is for the patient to return for 
biopsy of neck mass and cytology. Plan was formulated entirely 
by ___ and neurosurgery, as the patient should never have been 
hospitalized on the medicine service.

#Fall
Per report is mechanical. 2 falls in past year. Injuries to 
head, knee, hip appear superficial. Xrays were reassuring (no 
fracture). Pain was treated with Tylenol and lidocaine patch.

#HTN
Patient with elevated BP ISO pain, anxiety. He has no history 
chronic HTN. His pain was treated as above.

#Gout: continued allopurinol
#BPH: continued finasteride/tamsulosin
#Depression/anxiety: continued citalopram

TRANSITIONAL ISSUES
[] patient requires biopsy - order will be placed following 
discharge, and ___ will plan to biopsy early next week; results 
should be followed up by neurosurgery attending who formulated 
the plan for biopsy.
[] home safety evaluation arranged through ___ to minimize fall 
risk as an outpatient
# CODE: DNR/DNI 
# CONTACT: Son ___ ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Finasteride 5 mg PO DAILY 
2. Diclofenac Sodium ___ 50 mg PO BID 
3. Terazosin 10 mg PO QHS 
4. Citalopram 40 mg PO DAILY 
5. Allopurinol ___ mg PO DAILY 
6. Levothyroxine Sodium 175 mcg PO DAILY 
7. Aspirin 81 mg PO DAILY 
8. Os-Cal 500 + D3 (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral BID 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID  
2.  Lidocaine 5% Patch 1 PTCH TD QAM 
RX *lidocaine 5 % Apply one patch to the knee 12 hours on, 12 
hours off Disp #*30 Patch Refills:*0 
3.  Allopurinol ___ mg PO DAILY  
4.  Citalopram 40 mg PO DAILY  
5.  Diclofenac Sodium ___ 50 mg PO BID  
6.  Finasteride 5 mg PO DAILY  
7.  Levothyroxine Sodium 175 mcg PO DAILY  
8.  Os-Cal 500 + D3 (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral BID  
9.  Terazosin 10 mg PO QHS  
10. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until you have met with the neurosurgery 
team - if they need to do an operation they would want you to 
not be taking aspirin

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
#Neck mass
#Mechanical fall
#hypertension
#gout
#benign prostatic hypertrophy
#depression/anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You presented to ___ because you had a fall.

-You had imaging of your head and neck which showed a mass in 
your neck with an adjoining small fracture
-You were seen by the Neurosurgery team, who determined that you 
do not need surgery right now and do not need 

After you leave the hospital, it is important that you follow up 
with your doctors ___ that they can obtain a sample of the neck 
mass. This will be important to find out what the mass is. You 
should hear tomorrow from the interventional radiology team, who 
will schedule you to biopsy the mass. If you do not, please 

We wish you the best,

Your ___ medicine team
 
Followup Instructions:
___